US03957782
a. 6-Ethoxy-1-ethyl-3-methyl-1H-pyrazolo[3,4-b]pyrazine-5-carboxylic acid
2.78 g. of 6-ethoxy-1-ethyl-3-methyl-1H-pyrazolo-[3,4-b]pyrazine-5-carboxylic acid ethyl ester (0.01 mol.) dissolved in 20 ml. of ethanol are added to 20 ml. of aqueous sodium hydroxide (2.5 N) and the solution is allowed to stand overnight. After the vacuum removal of the alcohol, the solution is acidified with concentrated hydrochloric acid, the precipitated 6-ethoxy-1-ethyl-3methyl-1H-pyrazolo[3,4-b]pyrazine-5-carboxylic acid is filtered off, washed with water and dried at 70°, yield 2 g. (80%), m.p. 172°.

reactant | 6-ethoxy-1-ethyl-3-methyl-1H-pyrazolo-[3,4-b]pyrazine-5-carboxylic acid ethyl ester | 0.01 mol | C(C)OC(=O)C=1N=C2C(=NC1OCC)N(N=C2C)CC | C13H18N4O3
reactant | sodium hydroxide | 2.5 N | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 6-Ethoxy-1-ethyl-3-methyl-1H-pyrazolo[3,4-b]pyrazine-5-carboxylic acid | C(C)OC1=C(N=C2C(=N1)N(N=C2C)CC)C(=O)O | C11H14N4O3
